US07728025B2
(Step 3) Production of 3-chloro-2,4-bis(pyridin-3-yloxy)-6-nitroaniline
315 mg of potassium nitrate was added to a trifluoroacetic acid (20 ml) solution of 891 mg of 3-chloro-2,4-bis(pyridin-3-yloxy)aniline, and the reaction liquid was stirred overnight at room temperature, and then the solvent was evaporated away under reduced pressure. The residue was diluted with ethyl acetate, washed with aqueous saturated sodium bicarbonate and saturated saline in order, and dried with anhydrous magnesium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified with silica gel column chromatography (developing solvent: hexane/ethyl acetate=1/1 to ethyl acetate) to obtain the entitled compound as an orange solid.

reactant | potassium nitrate | 315 mg | [N+](=O)([O-])[O-].[K+]
reactant | 3-chloro-2,4-bis(pyridin-3-yloxy)aniline | 891 mg | ClC=1C(=C(N)C=CC1OC=1C=NC=CC1)OC=1C=NC=CC1 | C16H12ClN3O2
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-chloro-2,4-bis(pyridin-3-yloxy)-6-nitroaniline | ClC=1C(=C(N)C(=CC1OC=1C=NC=CC1)[N+](=O)[O-])OC=1C=NC=CC1 | C16H11ClN4O4
